US07060827B2
In a manner similar to the preparation of N2,N4-bis(3,4-ethylenedioxyphenyl)-5-phenyl-2,4-pyrimidinediamine, N2,N4-bis(3-hydroxyphenyl)-6-chloro-2,4-pyrimidinediamine and phenylboronic acid were reacted to yield N2,N4-bis(3-hydroxyphenyl)-6-phenyl-2,4-pyrimidinediamine. LCMS: ret. time: 22.13 min.; purity: 90%; MS (m/e): 371 (MH+).

reactant | N2,N4-bis(3,4-ethylenedioxyphenyl)-5-phenyl-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)C2=CC=CC=C2 | C26H22N4O4
reactant | N2,N4-bis(3-hydroxyphenyl)-6-chloro-2,4-pyrimidinediamine | OC=1C=C(C=CC1)NC1=NC(=CC(=N1)NC1=CC(=CC=C1)O)Cl | C16H13ClN4O2
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | N2,N4-bis(3-hydroxyphenyl)-6-phenyl-2,4-pyrimidinediamine | OC=1C=C(C=CC1)NC1=NC(=CC(=N1)NC1=CC(=CC=C1)O)C1=CC=CC=C1 | C22H18N4O2
